US07524951B2
A solution of 5.14 g of 2-bromo-7-(pyridin-3-yl)triethylsilyloxymethylimidazo[5,1-b]thiazole in 36 ml of tetrahydrofuran under an argon atmosphere was cooled to −60° C., 13.3 ml of a 0.89 M tetrahydrofuran solution of ethylmagnesium bromide was added thereto, and the mixture was stirred for one hr. N-Methyl-N-methoxypropionamide (1.71 g) was added thereto at −30° C., and the mixture was stirred at room temperature for 12 hr. A 20% aqueous ammonium chloride solution was added to stop the reaction, and the reaction mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium bicarbonate solution and saturated brine in that order and was then dried over anhydrous magnesium sulfate. The solvent was removed by evaporation, and the residue was purified by column chromatography on silica gel (3 to 6% methanol/methylene chloride) to give 3.88 g of 2-propionyl-7-(pyridin-3-yl)triethylsilyloxymethylimidazo[5,1-b]thiazole.

reactant | 2-bromo-7-(pyridin-3-yl)triethylsilyloxymethylimidazo[5,1-b]thiazole | 5.14 g | BrC1=C(N2C(S1)=C(N=C2)C=2C=NC=CC2)CO[Si](CC)(CC)CC | C17H22BrN3OSSi
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | N-Methyl-N-methoxypropionamide | 1.71 g | CN(C(CC)=O)OC | C5H11NO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 36 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.89 M | O1CCCC1 | C4H8O
product | 2-propionyl-7-(pyridin-3-yl)triethylsilyloxymethylimidazo[5,1-b]thiazole | 3.88 g | C(CC)(=O)C1=C(N2C(S1)=C(N=C2)C=2C=NC=CC2)CO[Si](CC)(CC)CC | C20H27N3O2SSi
